US07405210B2
Preparation 20: 2-(S)-Amino-3-(4-fluorophenyl)-1-(4-hydroxypiperidin-1-yl)propan-1-one hydrochloride
Route A: To a solution of [1 (S)-(4-fluorobenzyl)-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]carbamic acid tert-butyl ester (Preparation 19, 11.6 g, 31.7 mmol) in methanol (40 mL) was added hydrochloric acid in dioxane (24 mL, 4N, 95.0 mmol) and the reaction mixture stirred at rt for 6 h. The solvent was removed in vacuo and the residue was dissolved in water (100 mL) and extracted into ethyl acetate (2×50 mL). The aqueous phase was evaporated to dryness to give the title compound as a white solid. δH (D2O): 0.52–0.63 (0.5H, m), 1.12–1.23 (0.5H, m), 1.26–1.38 (1H, m), 1.42–1.50 (0.5H, m), 1.59–1.69 (0.5H, m), 1.72–1.82 (1H, m), 2.61–2.71 (0.5H, m), 2.91–3.15 (4H, m), 3.33–3.47 (1H, m), 3.69–3.78 (1H, m), 3.88–3.96 (1H, m), 4.60–4.72 (1H, m), 7.02–7.11 (2H, m), 7.14–7.26 (2H, m).

reactant | [1 (S)-(4-fluorobenzyl)-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]carbamic acid tert-butyl ester | 31.7 mmol, 11.6 g | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F)=O | C19H27FN2O4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 95.0 mmol, 4N, 24 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 40 mL | CO | CH4O
product | 2-(S)-Amino-3-(4-fluorophenyl)-1-(4-hydroxypiperidin-1-yl)propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F | InChI=1S/C14H19FN2O2.ClH/c15-11-3-1-10(2-4-11)9-13(16)14(19)17-7-5-12(18)6-8-17;/h1-4,12-13,18H,5-9,16H2;1H/t13-;/m0./s1
